US05212187
N-[2-[N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methylamino]ethyl]-N'-[3-[3-(piperidinomethyl)phenoxy]propyl]urea
Preparation is effected analogously to Example 63, using 0.92 g (3 mmol) of N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methyl-1,2-ethanediamine, an equimolar amount of 1,1'-carbonyldiimidazole and 0.88 g (3.5 mmol) of 3-[3-(piperidinomethyl)phenoxy]propaneamine as starting materials. Working up by chromatography (eluant: ethyl acetate) analogously to Example 63 yields the purified title compound in the form of an oil; MS (+FAB method): m/z (rel. int.[%])=578 ([M+H]+, 2), 230 (38), 78 (100); IR (KBr): 1637 cm-1 (C=O). For analytical purposes a sample is converted into the O,O'-ditoluoyltartaric acid salt and recrystallised from ether/isopropanol; m.p.: 99°-105° C.

reactant | N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methyl-1,2-ethanediamine | 3 mmol, 0.92 g | ClC1=CC=C(C=C1)C(CCN(CCN)C)C1=NC=CC=C1 | C17H22ClN3
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-[3-(piperidinomethyl)phenoxy]propaneamine | 3.5 mmol, 0.88 g | N1(CCCCC1)CC=1C=C(OCCCN)C=CC1 | C15H24N2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[2-[N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methylamino]ethyl]-N'-[3-[3-(piperidinomethyl)phenoxy]propyl]urea | ClC1=CC=C(C=C1)C(CCN(C)CCNC(=O)NCCCOC1=CC(=CC=C1)CN1CCCCC1)C1=NC=CC=C1 | C33H44ClN5O2
